US09085575B2
10 g of polyphosphoric acid is added to a solution of 2 g (3 mmol) of ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate in xylene (20 ml). The reaction mixture is carried at 160° C. for 36 hours. After returning to room temperature, the reaction medium is poured over crushed ice. Saturated sodium bicarbonate solution is added until the reaction medium is neutralized and then the product is extracted with ethyl acetate. The organic phases are combined, dried on magnesium sulfate and concentrated. The residue is purified by silica gel chromatography (eluent: 88:12 dichloromethane/methanol) to yield 50 mg (3%) of 8-(piperazin-1-yl)-1-(thiophen-2-yl)-5-(2,3,6-trifluorophenyl)indeno[1,2-d]pyrazolo[3,4-b]pyridin-6(3H)-one in the form of a pinkish solid.

reactant | ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 3 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1C2=C(NC(=C1C(=O)OCC)C1=C(C(=CC=C1F)F)F)NN=C2C=2SC=CC2 | C34H34F3N5O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-(piperazin-1-yl)-1-(thiophen-2-yl)-5-(2,3,6-trifluorophenyl)indeno[1,2-d]pyrazolo[3,4-b]pyridin-6(3H)-one | 50 mg, 3% | N1(CCNCC1)C=1C=C2C(C=3C(=C4C(=NC3C3=C(C(=CC=C3F)F)F)NN=C4C=4SC=CC4)C2=CC1)=O | C27H18F3N5OS
